US05232940
A solution of methylmagnesium iodide (prepared from magnesium (0.26 g) and methyl iodide (1.5 g) in diethyl ether (25 ml)), was treated with a solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyano-3-trifluoromethylpyrazole (2 g) in diethyl ether (20 ml), dropwise. The resulting pale yellow solution was refluxed for 24 hours, cooled, and treated with hydrochloric acid (2 N, 10 ml). After stirring for 0.5 hour at room temperature, the reaction mixture was diluted with ether (50 ml). The ethereal extract was washed with water (50 ml), dried over anhydrous magnesium sulphate, and evaporated in vacuo to give a yellow gum. This was purified by chromatography on silica (Merck, 230-400 mesh, 0.7 kg cm-2) eluting with a mixture of dichloromethane and petroleum ether (4:1) to give 4-acetyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole as a white solid, m.p. 134° C.

reactant | methylmagnesium iodide | 25 ml, 0.26 g | C[Mg]I
reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyano-3-trifluoromethylpyrazole | 2 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C#N)C(F)(F)F | C12H3Cl2F6N3
reactant | hydrochloric acid | 2 N, 10 ml | Cl | ClH
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
reactant | ether | 50 ml | CCOCC | C4H10O
product | 4-acetyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | C(C)(=O)C=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C13H6Cl2F6N2O
